US03952031
2β-Fluoro-3α-hydroxy-5α-pregnane-11,20-dione.
Anhydrous hydrofluoric acid (50 ml.) was added slowly to urea (40 g.) to give a colourless liquid. To 11 ml. of the liquid was added 2α,3α-epoxy-5α-pregnane-11,20-dione (650 mg.), and the clear solution was stirred at room temperature overnight. It was poured into saturated sodium bicarbonate solution (250 ml), and the white precipitate was extracted into chloroform. The organic solution was washed with water, dried over sodium sulphate and evaporated to give a white foam (565 mg.). Recrystallisation from acetonepetrol gave the title compound m.p. 174°-178°, [α]D α+114°.

reactant | hydrofluoric acid | 50 ml | F | FH
reactant | urea | 40 g | NC(=O)N | CH4N2O
reactant | 2α,3α-epoxy-5α-pregnane-11,20-dione | 650 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
solvent | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
product | 2β-Fluoro-3α-hydroxy-5α-pregnane-11,20-dione | F[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H31FO3
